US08039493B2
To a stirred suspension of 1-(5-bromo-2-thienyl)methanamine (1.00 g) in dichloromethane (15 mL) were slowly added 2-chlorobenzenesulfonyl chloride (1.18 g) and N,N-diisopropyl ethyl amine (0.76 g) at 0° C. After 15 min the ice bath was removed and the mixture was stirred at r.t. for 1.5 h. The mixture was diluted with dichloromethane and washed with 0.5 M HCl and with water. The organic phase was dried (MgSO4), filtered and concentrated under reduced pressure. The product was purified by chromatography (SiO2, cyclohexane/ethyl acetate 95:5 to ethyl acetate) to give N-(5-bromo-thiophen-2-ylmethyl)-2-chloro-benzenesulfonamide (0.83 g) as a colorless solid. MS: 363.9 ([M−H]−)

reactant | 1-(5-bromo-2-thienyl)methanamine | 1.00 g | BrC1=CC=C(S1)CN | C5H6BrNS
reactant | 2-chlorobenzenesulfonyl chloride | 1.18 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | N,N-diisopropyl ethyl amine | 0.76 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(5-bromo-thiophen-2-ylmethyl)-2-chloro-benzenesulfonamide | 0.83 g | BrC1=CC=C(S1)CNS(=O)(=O)C1=C(C=CC=C1)Cl | C11H9BrClNO2S2
